* Universal Opamp SPICE Macromodel
* Version: v0.1
* Date: 2019-11-23
* 
* Author: Dominik Stolte
* 
* 


*****************************************
* Universal Opamp
* Single pole opamp
* 
* PINOUT ORDER  1   2   3
* PINOUT ORDER +IN -IN OUT
* 

.subckt opamp +IN -IN V+ V- OUT

* Input
R1 +IN VR {Rin}
C1 +IN VR {Cin}

R2 -IN VR {Rin}
C2 -IN VR {Cin}

V1 +IN 001 {Vos}


* Pole

GP1 P1_1 0 001 -IN 1
RP1 P1_1 0 1k
CP1 P1_1 0 1/(6,28k*{Fu}*(128/(90-PM)-0,422))
EP  P1_O 0 P1_1 0 1


* Input

.param Rin=4Meg
.param Cin=1p
.param Vos=0.5m

.ends
*****************************************